US06518257B1
(i) Production of 3′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carbaldehyde
By the reaction in the same manner as in Example 1-(i) using 3-formylphenylboronic acid (0.45 g) and 1-(3bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.05 g), the amorphous title compound (0.80 g) was obtained.

reactant | 3-formylphenylboronic acid | 0.45 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 1-(3bromophenyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.05 g | BrC=1C=C(C=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
product | 3′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-carbaldehyde | 0.80 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)C=O | C39H34N2O2
